US06780855B2
880 mg of 11β-fluoro-3-hydroxy-7α-(5-iodopentyl)-estra-1,3,5(10)-trien-17-one and 2.23 g of (3,4,4,5,5,6,6,7,7,8,8,8-dodecafluor-oct-2-enyl)-methyl-amine are dissolved in 20 ml of N-methylpyrrolidone and stirred for 1 hour at a bath temperature of 80° C. After the reaction solution is cooled to room temperature, the batch is added to saturated common salt solution, extracted with diethyl ether, dried and concentrated by evaporation in a vacuum. 2.47 g of 7α-{5-[(3,4,4,5,5,6,6,7,7,8,8,8-dodecafluor-oct-2-enyl)-methyl-amino]-pentyl}-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one is obtained as a crude product, which is used without purification in the next stage.

reactant | 11β-fluoro-3-hydroxy-7α-(5-iodopentyl)-estra-1,3,5(10)-trien-17-one | 880 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCI)O | C23H30FIO2
reactant | (3,4,4,5,5,6,6,7,7,8,8,8-dodecafluor-oct-2-enyl)-methyl-amine | 2.23 g | FC(=CCNC)C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F | C9H7F12N
reactant | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 7α-{5-[(3,4,4,5,5,6,6,7,7,8,8,8-dodecafluor-oct-2-enyl)-methyl-amino]-pentyl}-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one | 2.47 g | FC(=CCN(CCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)=O)C)C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F | C32H36F13NO2
